* C:\Users\nvshy\Downloads\Q2Fulladder.asc
XU1 0 A0 A1 A2 0 0 0 N002 0 N002 N002 N002 C C_BAR VCC 0 74HCT151 VCC=5 SPEED=1.0 TRIPDT=1e-9
V1 N002 0 5
V2 A0 0 PULSE(5 0 0 1p 1p 1u 2u)
V3 A1 0 PULSE(5 0 0 1p 1p 2u 4u)
V4 A2 0 PULSE(5 0 0 1p 1p 4u 8u)
XU2 0 A0 A1 A2 0 N001 N001 0 N001 0 0 N001 S S_BAR VCC 0 74HCT151 VCC=5 SPEED=1.0 TRIPDT=1e-9
V5 N001 0 5
.INCLUDE 74HCT.LIB
* Full Adder  Using MUX
.tran 8u
.backanno
.end
